US07648986B2
Preparation of 3-[4-(1H-indazol-5-ylamino)-5-methylfuro[2,3-d]pyrimidin-2-yl]phenol
To a solution of N-(1H-indazol-5-yl)-2-(3-methoxyphenyl)-5-methylfuro[2,3-d]pyrimidin-4-amine (50.0 mg, 0.13 mmol) in CH2Cl2 (20 ml) cooled to −78° C. was added BBr3 (0.7 mL, 2.83 mmol, 1M solution in CH2Cl2) drop-wise. The mixture warmed to rt and was stirred overnight. The reaction was quenched with water and the organic and aqueous phases were separated. The organic layer was dried and concentrated under reduced pressure. The crude product was purified by silica gel column chromatography (gradient from 20% to 80% EtOAc/hexane) to afford are product (8.4 mg, 17.5%). HPLC/MS: (M+H)+ 358.1 m/z. Retention time (LC-MS)=3.01 min. 1H NMR (DMSO-D6): 8.54(s, NH); 8.11 (d, 1H); 8.07(s, 1H); 7.75(m, 3H); 7.60(d, 1H); 7.47(d, 1H); 7.20(t, 1H); 6.83(m, 1H).

reactant | N-(1H-indazol-5-yl)-2-(3-methoxyphenyl)-5-methylfuro[2,3-d]pyrimidin-4-amine | 0.13 mmol, 50.0 mg | N1N=CC2=CC(=CC=C12)NC=1C2=C(N=C(N1)C1=CC(=CC=C1)OC)OC=C2C | C21H17N5O2
reactant | BBr3 | 2.83 mmol, 1M, 0.7 mL | B(Br)(Br)Br | BBr3
solvent | CH2Cl2 | 20 ml | C(Cl)Cl | CH2Cl2
product | 3-[4-(1H-indazol-5-ylamino)-5-methylfuro[2,3-d]pyrimidin-2-yl]phenol | N1N=CC2=CC(=CC=C12)NC=1C2=C(N=C(N1)C=1C=C(C=CC1)O)OC=C2C | C20H15N5O2
